US06080875
f) Methyl (+)-(S)-α-amino-α-(2-chlorophenyl)acetate
2.36 g (10-2 mol) of methyl (+)-(S)-α-amino-α-(2-chlorophenyl)acetate hydrochloride are introduced into 50 ml of ethyl acetate or of methylene chloride, and 20 ml of 1.5 M aqueous ammonia or of sodium bicarbonate at 5% are added. The medium is stirred, the organic phase is separated after settling out and the aqueous phase is extracted with 10 ml of ethyl acetate. The organic phases are pooled, treated with anhydrous sodium sulphate and concentrated under reduced pressure until distillate is absent. The residue consisting of methyl (+)-(S)-α-amino-α-(2-chlorophenyl)acetate is then taken up in 50 ml of acetic acid.

reactant | methyl (+)-(S)-α-amino-α-(2-chlorophenyl)acetate hydrochloride | 10-2 mol, 2.36 g | Cl.N[C@H](C(=O)OC)C1=C(C=CC=C1)Cl
reactant | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
reactant | ammonia | 1.5 M, 20 ml | N | H3N
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | Methyl (+)-(S)-α-amino-α-(2-chlorophenyl)acetate | N[C@H](C(=O)OC)C1=C(C=CC=C1)Cl | C9H10ClNO2
